US07385054B2
b) N,N-Bis-[2-(2-bromopropionylamino)ethyl)-5-[(2-bromopropionyl)amino]-2,4,6-triiodoisophthalic acid amide
50 g (77.8 mmol) of N,N-bis-(2-aminoethyl)-5-amino-2,4,6-triiodoisophthalic acid amide is dissolved in 500 ml of dimethylacetamide, and 75.5 g (350 mmol) of 2-bromopropionic acid bromide (Aldrich) is added in drops over 15 minutes at 0° C. Then, it is stirred for 20 hours at 40° C. The reaction mixture is poured into 4000 ml of ice water, the accumulating solid is filtered off, dissolved in 800 ml of ethyl acetate, and extracted three times with 250 ml each of water. The organic phase is dried on sodium sulfate, and the solvent is evaporated to the dry state. The crude product is recrystallized from methyl-tert-butyl ether.

reactant | N,N-bis-(2-aminoethyl)-5-amino-2,4,6-triiodoisophthalic acid amide | 77.8 mmol, 50 g | NCCN(C(C1=C(C(C(=O)O)=C(C(=C1I)N)I)I)=O)CCN | C12H15I3N4O3
reactant | 2-bromopropionic acid bromide | 350 mmol, 75.5 g | BrC(C(=O)Br)C | C3H4Br2O
solvent | dimethylacetamide | 500 ml | CC(=O)N(C)C | C4H9NO
product | N,N-Bis-[2-(2-bromopropionylamino)ethyl)-5-[(2-bromopropionyl)amino]-2,4,6-triiodoisophthalic acid amide | BrC(C(=O)NCCN(C(C1=C(C(C(=O)O)=C(C(=C1I)NC(C(C)Br)=O)I)I)=O)CCNC(C(C)Br)=O)C | C21H24Br3I3N4O6
